US04957540
3-Methoxy-2-(2,4-dichlorobenzoyl)cyclohex-2-enone
2-(2,4-Dichlorobenzoyl)cyclohexane-1,3-dione (2.85 g, 0.01 ml) was stirred as a suspension in 25 ml anhydrous ether. Diazomethane, generated from Diazald™ (50 ml, 0.02 mol) was added at 0° at a rate slow enough to control effervescence. The resulting solution was stirred for an hour and the solvent allowed to evaporated under a stream of nitrogen in a beaker. The resulting oil was dissolved in ether and washed twice with saturated aqueous K2CO3. Evaporation of the solvent under reduced pressure yielded a solid (1.0 g, 35%, m.p. 81°-86° C.), the nuclear magnetic, infrared and mass spectra of which were consistent with the structure.

reactant | 2-(2,4-Dichlorobenzoyl)cyclohexane-1,3-dione | 0.01 ml, 2.85 g | ClC1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1)Cl | C13H10Cl2O3
reactant | Diazomethane | [N+](=[N-])=C | CH2N2
reactant | Diazald | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
solvent | ether | 25 ml | CCOCC | C4H10O
product | 3-Methoxy-2-(2,4-dichlorobenzoyl)cyclohex-2-enone | 1.0 g, 35% | COC1=C(C(CCC1)=O)C(C1=C(C=C(C=C1)Cl)Cl)=O | C14H12Cl2O3
